US05536869
4-[[4-(Aminoiminomethyl)phenyl]amino]-4-oxobutanoic acid hydrochloride was added to dry DMF (35 ml) followed by N-methylmorpholine (0.39 g, 1 eq.) and isobutyl chloroformate (0.53 g, 3.9 mmol) at 25° C. The mixture was stirred for 5 min. (S)-ethyl 3-amino-4-pentynoate was added followed by diisopropylethylamine and a catalytic amount of dimethylaminopyridine. After 1 hour, the solvent was removed under reduced pressure and the product was purified by reverse phase chromatography to give (3S)-ethyl 3-[[4-[[4-(aminoiminomethyl)phenyl]amino]-1,4-dioxobutyl]amino]-4-pentynoate.

reactant | 4-[[4-(Aminoiminomethyl)phenyl]amino]-4-oxobutanoic acid hydrochloride | Cl.NN=CC1=CC=C(C=C1)NC(CCC(=O)O)=O
reactant | N-methylmorpholine | 0.39 g, 1 eq. | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 3.9 mmol, 0.53 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (S)-ethyl 3-amino-4-pentynoate | N[C@@H](CC(=O)OCC)C#C | C7H11NO2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | (3S)-ethyl 3-[[4-[[4-(aminoiminomethyl)phenyl]amino]-1,4-dioxobutyl]amino]-4-pentynoate | NN=CC1=CC=C(C=C1)NC(CCC(=O)N[C@@H](CC(=O)OCC)C#C)=O | C18H22N4O4
